US07872031B2
To a solution of 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone (1.14 g, 3.03 mmol) in EtOH (40 mL) was added ethyl carbazate (0.95 g, 9.09 mmol) and TsOH (2 mg). The reaction mixture was heated for 3 hours, followed by evaporated of the volatiles to give ethyl-2-(1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethylidene)hydrazinecarboxylate as a yellow oil, which was used directly in the next step.

reactant | 1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethanone | 3.03 mmol, 1.14 g | BrC=1C=C(C(=NC1)Cl)C(CC1=C(C(=CC=C1)Cl)Cl)=O | C13H7BrCl3NO
reactant | ethyl carbazate | 9.09 mmol, 0.95 g | C(NN)(=O)OCC | C3H8N2O2
reactant | TsOH | 2 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | EtOH | 40 mL | CCO | C2H6O
product | ethyl-2-(1-(5-bromo-2-chloropyridin-3-yl)-2-(2,3-dichlorophenyl)ethylidene)hydrazinecarboxylate | C(C)OC(=O)NN=C(CC1=C(C(=CC=C1)Cl)Cl)C=1C(=NC=C(C1)Br)Cl | C16H13BrCl3N3O2
